T1 ( net166 net166 0 0)  nfet  L=8.66E-6 W=3.90E-6
T2 ( net269 net166 0 0)  nfet  L=8.66E-6 W=3.90E-6
R3 ( net269 net84)  R=0.8E6
C4 (0 net135) C=6.2E-8
R5 ( net338 net3)  R=3.7E5
T6 ( net3 net3 net28 0)  nfet  L=3.74E-6 W=7.35E-6
T7 ( net28 net70 0 0)  nfet  L=3.74E-6 W=7.35E-6
T8 ( net70 net70 0 0)  nfet  L=3.74E-6 W=7.35E-6
T9 ( net222 net3 net70 0)  nfet  L=3.74E-6 W=7.35E-6
T10 (net382 net336 net336 0) pfet L=6.09E-6 W=5.69E-6
T11 ( net14 net14 0 0)  nfet  L=5.65E-6 W=7.52E-6
T12 ( net301 net14 0 0)  nfet  L=5.65E-6 W=7.52E-6
R13 ( net301 net249)  R=5.0E4
R14 (vdd! net94) R=7.0E6
T15 (net270 net435 net435 0) pfet L=7.20E-6 W=2.40E-6
C16 (0 net349) C=7.3E-13
R17 ( net200 net166)  R=2.9E0
T18 ( net166 net142 0 0)  nfet  L=6.14E-6 W=1.11E-6
T19 ( net76 net142 0 0)  nfet  L=6.14E-6 W=1.11E-6
T20 ( net394 net166 net76 0)  nfet  L=6.14E-6 W=1.11E-6
C21 (net313 net419) C=6.9E-14
T22 (net328 net307 net307 0) nfet L=3.64E-6 W=4.51E-6
R23 (net36 net360) R=2.5E1
C24 (net72 net95) C=5.7E-5
C25 (net14 net340) C=4.7E-14
R26 ( net355 net209)  R=8.7E0
T27 ( net209 net209 0 0)  nfet  L=2.72E-6 W=2.25E-6
T28 ( net395 net209 0 0)  nfet  L=2.72E-6 W=2.25E-6
C29 (net351 net316) C=2.8E-13
R30 ( net130 net242)  R=7.8E3
T31 ( net242 net242 net421 vdd!)  pfet  L=1.01E-6 W=2.55E-6
T32 ( net421 net302 vdd! vdd!)  pfet  L=1.01E-6 W=2.55E-6
T33 ( net302 net302 vdd! vdd!)  pfet  L=1.01E-6 W=2.55E-6
T34 ( net112 net242 net302 vdd!)  pfet  L=1.01E-6 W=2.55E-6
C35 (net188 net415) C=0.7E-8
R36 ( net397 net427)  R=1.6E4
T37 ( net427 net330 vdd! vdd!)  pfet  L=9.98E-6 W=0.52E-6
T38 ( net146 net330 vdd! vdd!)  pfet  L=9.98E-6 W=0.52E-6
T39 ( 0 net427 net330 vdd!)  pfet  L=9.98E-6 W=0.52E-6
T40 (vdd! vdd! vdd! 0) nfet L=5.19E-6 W=7.71E-6
T41 (net200 net284 net284 0) nfet L=2.87E-6 W=0.99E-6
R42 ( net179 net257)  R=1.1E0
T43 ( net257 net420 0 0)  nfet  L=3.35E-6 W=2.52E-6
T44 ( net396 net420 0 0)  nfet  L=3.35E-6 W=2.52E-6
T45 ( net138 net257 net396 0)  nfet  L=3.35E-6 W=2.52E-6
T46 (net432 net247 net247 0) nfet L=3.85E-6 W=9.36E-6
T47 ( vdd! vdd! 0 0)  nfet  L=4.95E-6 W=2.67E-6
T48 ( net227 vdd! 0 0)  nfet  L=4.95E-6 W=2.67E-6
R49 ( net227 net115)  R=4.5E0
T50 (net410 net4 net4 0) pfet L=1.65E-6 W=8.46E-6
R51 ( net315 net66)  R=4.8E5
T52 ( net66 net50 vdd! vdd!)  pfet  L=8.35E-6 W=0.17E-6
T53 ( net148 net50 vdd! vdd!)  pfet  L=8.35E-6 W=0.17E-6
T54 ( 0 net66 net50 vdd!)  pfet  L=8.35E-6 W=0.17E-6
R55 (net114 net343) R=7.1E6
R56 ( net56 net324)  R=2.2E1
T57 ( net324 net324 0 0)  nfet  L=4.65E-6 W=0.82E-6
T58 ( vdd! net324 0 0)  nfet  L=4.65E-6 W=0.82E-6
T59 (net222 net77 net77 0) pfet L=8.72E-6 W=2.66E-6
R60 (net19 net44) R=1.8E5
C61 (net350 net237) C=6.9E-7
T62 (net51 net228 net228 0) nfet L=5.77E-6 W=1.99E-6
R63 ( 0 net48)  R=0.5E6
T64 ( net48 net48 net111 0)  nfet  L=9.32E-6 W=6.84E-6
T65 ( net111 net411 0 0)  nfet  L=9.32E-6 W=6.84E-6
T66 ( net411 net411 0 0)  nfet  L=9.32E-6 W=6.84E-6
T67 ( net93 net48 net411 0)  nfet  L=9.32E-6 W=6.84E-6
C68 (net283 net247) C=6.3E-14
T69 ( net117 net117 0 0)  nfet  L=7.48E-6 W=9.91E-6
T70 ( net12 net117 0 0)  nfet  L=7.48E-6 W=9.91E-6
R71 ( net12 net205)  R=7.9E1
T72 (net366 net80 net80 0) pfet L=1.68E-6 W=0.49E-6
C73 (0 net35) C=5.1E-14
T74 (net187 net123 net123 0) nfet L=1.90E-6 W=1.56E-6
R75 (net63 net213) R=4.2E0
R76 ( net191 net219)  R=9.0E6
T77 ( net219 net428 0 0)  nfet  L=1.94E-6 W=2.00E-6
T78 ( net343 net428 0 0)  nfet  L=1.94E-6 W=2.00E-6
T79 ( net347 net219 net343 0)  nfet  L=1.94E-6 W=2.00E-6
C80 (net69 net264) C=6.6E-6
C81 (net184 net4) C=5.4E-9
R82 (net165 net26) R=1.0E2
R83 ( net75 net126)  R=4.6E6
T84 ( net126 net126 0 0)  nfet  L=8.33E-6 W=2.14E-6
T85 ( net267 net126 0 0)  nfet  L=8.33E-6 W=2.14E-6
R86 (net380 net338) R=7.4E3
R87 ( vdd! net431)  R=3.1E5
T88 ( net431 net187 0 0)  nfet  L=9.92E-6 W=1.82E-6
T89 ( vdd! net187 0 0)  nfet  L=9.92E-6 W=1.82E-6
T90 ( vdd! net431 net187 0)  nfet  L=9.92E-6 W=1.82E-6
R91 (vdd! net350) R=1.0E4
C92 (net152 net9) C=5.4E-9
R93 (net416 net57) R=0.9E6
R94 (net291 net336) R=4.8E6
T95 (net59 net258 net258 0) nfet L=8.25E-6 W=7.11E-6
R96 ( net131 net238)  R=1.3E0
T97 ( net238 net434 vdd! vdd!)  pfet  L=4.58E-6 W=0.55E-6
T98 ( 0 net434 vdd! vdd!)  pfet  L=4.58E-6 W=0.55E-6
T99 ( 0 net238 net434 vdd!)  pfet  L=4.58E-6 W=0.55E-6
C100 (net408 net214) C=2.2E-7
R101 ( net68 net180)  R=1.5E3
T102 ( net180 net406 vdd! vdd!)  pfet  L=7.99E-6 W=7.91E-6
T103 ( net32 net406 vdd! vdd!)  pfet  L=7.99E-6 W=7.91E-6
T104 ( 0 net180 net32 vdd!)  pfet  L=7.99E-6 W=7.91E-6
C105 (net305 net72) C=9.5E-14
T106 (net235 net162 net162 0) nfet L=6.58E-6 W=9.74E-6
C107 (net410 net279) C=2.3E-6
R108 (net72 net4) R=6.6E5
R109 ( net360 net117)  R=7.5E6
T110 ( net117 net117 net94 vdd!)  pfet  L=8.23E-6 W=8.27E-6
T111 ( net94 net303 vdd! vdd!)  pfet  L=8.23E-6 W=8.27E-6
T112 ( net303 net303 vdd! vdd!)  pfet  L=8.23E-6 W=8.27E-6
T113 ( net305 net117 net303 vdd!)  pfet  L=8.23E-6 W=8.27E-6
C114 (net203 net344) C=1.6E-12
T115 (net403 net288 net288 0) pfet L=2.15E-6 W=0.26E-6
R116 (net368 net13) R=10.0E5
R117 ( net88 net293)  R=1.5E2
T118 ( net293 net179 vdd! vdd!)  pfet  L=8.39E-6 W=4.49E-6
T119 ( net339 net179 vdd! vdd!)  pfet  L=8.39E-6 W=4.49E-6
T120 ( 0 net293 net179 vdd!)  pfet  L=8.39E-6 W=4.49E-6
R121 (net234 net387) R=6.1E6
T122 (net212 net417 net417 0) pfet L=1.00E-6 W=4.75E-6
T123 (vdd! net163 net163 0) nfet L=9.02E-6 W=2.65E-6
T124 (net249 net192 net192 0) pfet L=7.91E-6 W=2.82E-6
T125 (net6 net68 net68 0) pfet L=8.55E-6 W=0.85E-6
T126 ( net367 net367 vdd! vdd!)  pfet  L=9.95E-6 W=3.32E-6
T127 ( net13 net367 vdd! vdd!)  pfet  L=9.95E-6 W=3.32E-6
R128 ( net13 net47)  R=7.9E2
T129 (net314 net185 net185 0) pfet L=0.74E-6 W=9.40E-6
R130 ( net284 net75)  R=7.2E6
T131 ( net75 net304 0 0)  nfet  L=0.50E-6 W=0.51E-6
T132 ( net412 net304 0 0)  nfet  L=0.50E-6 W=0.51E-6
T133 ( net86 net75 net412 0)  nfet  L=0.50E-6 W=0.51E-6
T134 (0 net279 net279 0) pfet L=4.44E-6 W=9.75E-6
T135 (net189 net30 net30 0) pfet L=8.29E-6 W=6.67E-6
R136 (net264 net194) R=8.8E5
R137 (net279 0) R=2.5E0
T138 (net349 net375 net375 0) pfet L=6.35E-6 W=6.29E-6
T139 (net163 net123 net123 0) nfet L=9.74E-6 W=6.44E-6
T140 (net15 net245 net245 0) nfet L=6.97E-6 W=1.13E-6
R141 ( 0 net426)  R=8.7E0
T142 ( net426 net426 net191 vdd!)  pfet  L=0.22E-6 W=8.43E-6
T143 ( net191 net133 vdd! vdd!)  pfet  L=0.22E-6 W=8.43E-6
T144 ( net133 net133 vdd! vdd!)  pfet  L=0.22E-6 W=8.43E-6
T145 ( net82 net426 net133 vdd!)  pfet  L=0.22E-6 W=8.43E-6
T146 (net312 net137 net137 0) nfet L=0.99E-6 W=5.31E-6
T147 (net37 net77 net77 0) pfet L=5.20E-6 W=5.88E-6
R148 (0 net84) R=2.2E4
T149 (net178 net38 net38 0) nfet L=8.20E-6 W=8.38E-6
R150 ( net341 net244)  R=4.1E5
T151 ( net244 net244 vdd! vdd!)  pfet  L=4.81E-6 W=9.07E-6
T152 ( net274 net244 vdd! vdd!)  pfet  L=4.81E-6 W=9.07E-6
T153 (net234 net350 net350 0) nfet L=7.43E-6 W=5.60E-6
R154 ( net425 net383)  R=7.6E2
T155 ( net383 net383 net371 0)  nfet  L=6.54E-6 W=9.97E-6
T156 ( net371 net291 0 0)  nfet  L=6.54E-6 W=9.97E-6
T157 ( net291 net291 0 0)  nfet  L=6.54E-6 W=9.97E-6
T158 ( net143 net383 net291 0)  nfet  L=6.54E-6 W=9.97E-6
C159 (net382 vdd!) C=5.5E-11
R160 ( vdd! net307)  R=3.0E2
T161 ( net307 net359 vdd! vdd!)  pfet  L=2.38E-6 W=1.42E-6
T162 ( net239 net359 vdd! vdd!)  pfet  L=2.38E-6 W=1.42E-6
T163 ( 0 net307 net359 vdd!)  pfet  L=2.38E-6 W=1.42E-6
T164 (net250 net27 net27 0) nfet L=7.83E-6 W=4.05E-6
R165 ( net415 net405)  R=4.0E5
T166 ( net405 net405 net160 0)  nfet  L=8.00E-6 W=0.85E-6
T167 ( net160 net384 0 0)  nfet  L=8.00E-6 W=0.85E-6
T168 ( net384 net384 0 0)  nfet  L=8.00E-6 W=0.85E-6
T169 ( net98 net405 net384 0)  nfet  L=8.00E-6 W=0.85E-6
C170 (net61 vdd!) C=1.9E-14
R171 ( net14 net52)  R=4.5E1
T172 ( net52 net197 0 0)  nfet  L=3.00E-6 W=2.26E-6
T173 ( net104 net197 0 0)  nfet  L=3.00E-6 W=2.26E-6
T174 ( net437 net52 net104 0)  nfet  L=3.00E-6 W=2.26E-6
R175 (net47 net429) R=9.1E6
R176 (net271 net8) R=2.8E6
R177 ( net8 net125)  R=6.1E1
T178 ( net125 net129 0 0)  nfet  L=8.44E-6 W=4.87E-6
T179 ( net328 net129 0 0)  nfet  L=8.44E-6 W=4.87E-6
T180 ( net7 net125 net328 0)  nfet  L=8.44E-6 W=4.87E-6
T181 (net36 net305 net305 0) pfet L=2.65E-6 W=2.21E-6
R182 ( net26 net134)  R=5.9E6
T183 ( net134 net181 vdd! vdd!)  pfet  L=1.36E-6 W=2.88E-6
T184 ( net310 net181 vdd! vdd!)  pfet  L=1.36E-6 W=2.88E-6
T185 ( net122 net134 net310 vdd!)  pfet  L=1.36E-6 W=2.88E-6
T186 (net60 net258 net258 0) pfet L=9.80E-6 W=1.38E-6
T187 ( net353 net353 vdd! vdd!)  pfet  L=7.53E-6 W=3.40E-6
T188 ( net251 net353 vdd! vdd!)  pfet  L=7.53E-6 W=3.40E-6
R189 ( net251 net335)  R=8.9E0
R190 (net350 net165) R=8.9E6
R191 ( net255 net347)  R=5.6E6
T192 ( net347 net347 net233 vdd!)  pfet  L=8.27E-6 W=0.90E-6
T193 ( net233 net217 vdd! vdd!)  pfet  L=8.27E-6 W=0.90E-6
T194 ( net217 net217 vdd! vdd!)  pfet  L=8.27E-6 W=0.90E-6
T195 ( vdd! net347 net217 vdd!)  pfet  L=8.27E-6 W=0.90E-6
R196 (net228 net364) R=9.0E2
T197 (net419 net99 net99 0) pfet L=0.11E-6 W=2.06E-6
R198 ( vdd! net31)  R=1.4E1
T199 ( net31 net391 0 0)  nfet  L=6.64E-6 W=7.13E-6
T200 ( net201 net391 0 0)  nfet  L=6.64E-6 W=7.13E-6
T201 ( net365 net31 net201 0)  nfet  L=6.64E-6 W=7.13E-6
C202 (net188 net320) C=7.7E-10
R203 ( net170 net87)  R=2.9E0
T204 ( net87 net305 vdd! vdd!)  pfet  L=3.05E-6 W=5.14E-6
T205 ( net131 net305 vdd! vdd!)  pfet  L=3.05E-6 W=5.14E-6
T206 ( 0 net87 net305 vdd!)  pfet  L=3.05E-6 W=5.14E-6
C207 (net107 net221) C=9.6E-6
T208 ( net399 net399 vdd! vdd!)  pfet  L=8.49E-6 W=2.98E-6
T209 ( net263 net399 vdd! vdd!)  pfet  L=8.49E-6 W=2.98E-6
R210 ( net263 net357)  R=8.8E1
C211 (net60 net148) C=7.4E-11
T212 ( net218 net218 vdd! vdd!)  pfet  L=2.03E-6 W=3.94E-6
T213 ( net77 net218 vdd! vdd!)  pfet  L=2.03E-6 W=3.94E-6
R214 ( net77 net379)  R=8.8E4
R215 (net73 net363) R=8.7E5
T216 (net290 net164 net164 0) nfet L=0.22E-6 W=7.29E-6
C217 (net51 net82) C=7.0E-14
T218 (net407 net172 net172 0) pfet L=2.34E-6 W=3.60E-6
T219 ( net236 net236 0 0)  nfet  L=7.64E-6 W=6.40E-6
T220 ( net19 net236 0 0)  nfet  L=7.64E-6 W=6.40E-6
R221 ( net19 net394)  R=9.3E2
T222 (net229 net210 net210 0) pfet L=4.39E-6 W=2.50E-6
T223 (net254 net107 net107 0) nfet L=8.34E-6 W=1.72E-6
R224 (0 net353) R=2.0E4
R225 ( net277 net64)  R=8.3E5
T226 ( net64 net64 vdd! vdd!)  pfet  L=5.86E-6 W=4.60E-6
T227 ( net165 net64 vdd! vdd!)  pfet  L=5.86E-6 W=4.60E-6
R228 (0 net2) R=7.1E6
R229 (net262 net72) R=9.9E5
R230 ( net376 net334)  R=1.2E6
T231 ( net334 net334 net322 vdd!)  pfet  L=2.38E-6 W=6.14E-6
T232 ( net322 net352 vdd! vdd!)  pfet  L=2.38E-6 W=6.14E-6
T233 ( net352 net352 vdd! vdd!)  pfet  L=2.38E-6 W=6.14E-6
T234 ( 0 net334 net352 vdd!)  pfet  L=2.38E-6 W=6.14E-6
R235 (0 net105) R=2.1E5
T236 (net91 net107 net107 0) pfet L=8.92E-6 W=7.73E-6
T237 (net419 0 0 0) pfet L=3.87E-6 W=4.34E-6
C238 (net356 net235) C=1.7E-6
T239 (net370 net332 net332 0) pfet L=3.73E-6 W=8.63E-6
R240 ( net376 net120)  R=5.9E4
T241 ( net120 net120 vdd! vdd!)  pfet  L=1.15E-6 W=9.80E-6
T242 ( net247 net120 vdd! vdd!)  pfet  L=1.15E-6 W=9.80E-6
T243 (net51 net4 net4 0) nfet L=2.56E-6 W=3.60E-6
T244 (0 net138 net138 0) pfet L=8.41E-6 W=0.15E-6
T245 (net51 net7 net7 0) pfet L=0.82E-6 W=4.19E-6
T246 (net346 net128 net128 0) pfet L=7.56E-6 W=7.60E-6
C247 (net192 net436) C=8.5E-14
R248 ( net267 net153)  R=2.9E4
T249 ( net153 net135 0 0)  nfet  L=9.74E-6 W=6.09E-6
T250 ( net157 net135 0 0)  nfet  L=9.74E-6 W=6.09E-6
T251 ( net30 net153 net157 0)  nfet  L=9.74E-6 W=6.09E-6
T252 (0 net139 net139 0) nfet L=6.95E-6 W=4.12E-6
C253 (net321 net280) C=4.6E-14
R254 (net17 net357) R=8.9E5
T255 (net228 net44 net44 0) pfet L=9.77E-6 W=7.20E-6
R256 ( net105 net82)  R=1.9E4
T257 ( net82 net82 vdd! vdd!)  pfet  L=5.68E-6 W=1.71E-6
T258 ( net375 net82 vdd! vdd!)  pfet  L=5.68E-6 W=1.71E-6
C259 (net10 vdd!) C=0.7E-13
R260 (net410 net326) R=9.5E4
T261 (net176 net281 net281 0) nfet L=5.58E-6 W=1.06E-6
R262 ( net67 net21)  R=7.9E5
T263 ( net21 net21 net259 vdd!)  pfet  L=5.07E-6 W=5.35E-6
T264 ( net259 net351 vdd! vdd!)  pfet  L=5.07E-6 W=5.35E-6
T265 ( net351 net351 vdd! vdd!)  pfet  L=5.07E-6 W=5.35E-6
T266 ( net37 net21 net351 vdd!)  pfet  L=5.07E-6 W=5.35E-6
T267 (vdd! net311 net311 0) nfet L=3.62E-6 W=5.99E-6
R268 ( net210 net152)  R=8.3E5
T269 ( net152 net246 vdd! vdd!)  pfet  L=5.46E-6 W=6.08E-6
T270 ( net340 net246 vdd! vdd!)  pfet  L=5.46E-6 W=6.08E-6
T271 ( net184 net152 net340 vdd!)  pfet  L=5.46E-6 W=6.08E-6
T272 (net297 net173 net173 0) nfet L=4.22E-6 W=6.58E-6
R273 ( vdd! net38)  R=5.6E6
T274 ( net38 net43 vdd! vdd!)  pfet  L=4.39E-6 W=4.99E-6
T275 ( net184 net43 vdd! vdd!)  pfet  L=4.39E-6 W=4.99E-6
T276 ( net33 net38 net184 vdd!)  pfet  L=4.39E-6 W=4.99E-6
T277 (net398 net357 net357 0) nfet L=6.73E-6 W=0.71E-6
T278 (net90 net398 net398 0) pfet L=4.28E-6 W=0.77E-6
R279 (net9 net280) R=2.1E1
C280 (net395 net69) C=7.1E-11
T281 (net297 net395 net395 0) pfet L=7.91E-6 W=5.29E-6
R282 ( net439 net130)  R=8.8E5
T283 ( net130 net130 vdd! vdd!)  pfet  L=7.15E-6 W=6.56E-6
T284 ( net216 net130 vdd! vdd!)  pfet  L=7.15E-6 W=6.56E-6
T285 (0 net41 net41 0) pfet L=7.63E-6 W=8.48E-6
T286 (net300 net366 net366 0) pfet L=0.95E-6 W=2.64E-6
R287 (net11 net49) R=9.6E0
R288 (net398 net73) R=3.8E1
T289 ( net136 net136 0 0)  nfet  L=3.17E-6 W=9.93E-6
T290 ( net361 net136 0 0)  nfet  L=3.17E-6 W=9.93E-6
R291 ( net361 net327)  R=8.9E5
C292 (0 net319) C=1.2E-13
R293 ( net107 net385)  R=7.5E0
T294 ( net385 net235 vdd! vdd!)  pfet  L=9.06E-6 W=2.90E-6
T295 ( net261 net235 vdd! vdd!)  pfet  L=9.06E-6 W=2.90E-6
T296 ( 0 net385 net235 vdd!)  pfet  L=9.06E-6 W=2.90E-6
R297 (net394 net268) R=1.7E1
R298 ( net4 net154)  R=5.7E5
T299 ( net154 net276 vdd! vdd!)  pfet  L=7.81E-6 W=6.73E-6
T300 ( net315 net276 vdd! vdd!)  pfet  L=7.81E-6 W=6.73E-6
T301 ( net438 net154 net315 vdd!)  pfet  L=7.81E-6 W=6.73E-6
R302 (net108 net433) R=5.1E5
R303 (net91 vdd!) R=1.9E1
R304 ( net336 net14)  R=6.0E3
T305 ( net14 net14 0 0)  nfet  L=7.70E-6 W=3.86E-6
T306 ( net2 net14 0 0)  nfet  L=7.70E-6 W=3.86E-6
C307 (0 net103) C=6.7E-14
C308 (net372 net369) C=0.5E-10
R309 (net228 net401) R=2.2E2
T310 (net234 net314 net314 0) nfet L=8.94E-6 W=4.22E-6
T311 (net295 net439 net439 0) nfet L=6.73E-6 W=6.39E-6
T312 (net222 net103 net103 0) pfet L=9.29E-6 W=1.56E-6
R313 (net18 net369) R=7.3E1
C314 (net414 net228) C=9.8E-14
C315 (net78 net17) C=2.6E-8
T316 (net190 net124 net124 0) pfet L=8.56E-6 W=5.12E-6
T317 (vdd! net203 net203 0) pfet L=7.30E-6 W=8.58E-6
T318 (net423 net121 net121 0) nfet L=5.59E-6 W=5.03E-6
R319 (net20 vdd!) R=5.3E3
T320 (net326 net348 net348 0) pfet L=7.90E-6 W=8.01E-6
R321 (net349 net255) R=0.6E1
T322 (net279 net7 net7 0) pfet L=5.20E-6 W=9.86E-6
C323 (net200 net161) C=5.2E-10
C324 (net102 net284) C=9.1E-13
T325 (net45 net212 net212 0) nfet L=7.07E-6 W=4.26E-6
C326 (net430 0) C=7.0E-13
T327 (net237 net407 net407 0) pfet L=1.00E-6 W=7.24E-6
T328 (net416 net318 net318 0) pfet L=4.10E-6 W=4.96E-6
T329 (net388 net206 net206 0) pfet L=3.71E-6 W=3.79E-6
C330 (net73 net103) C=4.1E-14
R331 (net212 net110) R=0.2E6
R332 (net55 net37) R=0.4E2
T333 (net241 0 0 0) nfet L=1.15E-6 W=4.88E-6
T334 (net415 net186 net186 0) pfet L=2.92E-6 W=6.05E-6
T335 (net299 net429 net429 0) pfet L=4.46E-6 W=8.35E-6
R336 (net185 net24) R=1.1E0
R337 (net216 vdd!) R=5.8E6
T338 (net417 net168 net168 0) nfet L=7.55E-6 W=0.77E-6
T339 (net331 net30 net30 0) nfet L=3.90E-6 W=2.08E-6
C340 (net408 net173) C=2.6E-6
C341 (net194 net266) C=5.2E-8
C342 (net325 net267) C=2.3E-11
T343 (net393 net401 net401 0) pfet L=4.17E-6 W=0.51E-6
C344 (net68 vdd!) C=8.3E-8
R345 (net215 net211) R=8.0E3
C346 (net53 net346) C=2.0E-10
R347 (net173 net33) R=9.1E0
R348 (net296 net298) R=5.9E1
C349 (net403 net287) C=1.8E-13
R350 (vdd! net402) R=9.9E2
C351 (net287 vdd!) C=5.8E-12
C352 (net425 net366) C=8.3E-10
R353 (net25 0) R=10.0E3
R354 (0 net277) R=6.5E6
C355 (net382 vdd!) C=6.6E-6
C356 (net149 net369) C=9.1E-5
T357 (net108 net344 net344 0) nfet L=8.56E-6 W=6.79E-6
C358 (net205 net387) C=9.3E-5
C359 (net350 net164) C=3.5E-14
C360 (net7 net403) C=3.1E-13
T361 (net68 net393 net393 0) pfet L=7.79E-6 W=8.53E-6
R362 (net339 0) R=1.0E3
T363 (net319 net86 net86 0) nfet L=3.43E-6 W=7.53E-6
R364 (net2 net288) R=7.5E3
R365 (vdd! net92) R=5.8E1
C366 (net138 net140) C=8.8E-13
T367 (net202 net95 net95 0) pfet L=4.96E-6 W=0.49E-6
T368 (net137 net223 net223 0) nfet L=9.91E-6 W=9.27E-6
C369 (net200 vdd!) C=3.1E-6
C370 (vdd! net390) C=6.4E-7
C371 (net183 net92) C=10.0E-12

